US09163012B2
To a stirred solution of (R)-tert-butyl 3-(6-chloro-2-oxo-1H-imidazo[4,5-b]pyridin-3(2H)-yl)pyrrolidine-1-carboxylate (110 mg, 0.33 mmol) in dry THF (5 mL) was added 60% NaH in oil (20 mg, 0.5 mmol). The mixture was stirred at rt for 5 min and MeI (0.02 mL, 0.33 mmol) was added. The mixture was stirred overnight, diluted with EtOAc (100 mL), washed with brine (2×10 mL) and dried over Na2SO4. Removal of the solvent left an oil (118 mg) which was applied to a 2-g silica SPE cartridge. The cartridge was eluted sequentially with 0, 25, 50, 75 and 100% EtOAc in hexanes (15 mL of each) to afford 5 fractions. Fractions 2 & 3 were pooled and concentrated to give (R)-tert-butyl 3-(6-chloro-1-methyl-2-oxo-1H-imidazo[4,5-b]pyridin-3(2H)-yl)pyrrolidine-1-carboxylate (109 mg, 95%) as a red oil. LC-MS Method 1 tR=1.82 min, m/z=353, 279.

reactant | (R)-tert-butyl 3-(6-chloro-2-oxo-1H-imidazo[4,5-b]pyridin-3(2H)-yl)pyrrolidine-1-carboxylate | 0.33 mmol, 110 mg | ClC=1C=C2C(=NC1)N(C(N2)=O)[C@H]2CN(CC2)C(=O)OC(C)(C)C | C15H19ClN4O3
reactant | NaH | [H-].[Na+]
reactant | MeI | 0.33 mmol, 0.02 mL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 3-(6-chloro-1-methyl-2-oxo-1H-imidazo[4,5-b]pyridin-3(2H)-yl)pyrrolidine-1-carboxylate | 109 mg, 95% | ClC=1C=C2C(=NC1)N(C(N2C)=O)[C@H]2CN(CC2)C(=O)OC(C)(C)C | C16H21ClN4O3
